US06610733B2
A solution of ethyl 10-[(3R,4R)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate (3.23 g, 4.902 mmol) in dichloromethane (60 ml) was cooled to −78° C. To this solution, a solution of boron tribromide in dichloromethane (1M, 39.22 ml, 39.22 mmol) was slowly added dropwise, and the resulting mixture was stirred for 1 hour. The reaction vessel was then transferred to an ice-bath and the reaction mixture was further stirred for 3 hours. After the reaction was completed, water was added to the reaction mixture, which was then extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/20) to give ethyl 10-[(3R,4R)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate (2.08 g, Yield 67%) as a foam.

reactant | ethyl 10-[(3R,4R)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate | 4.902 mmol, 3.23 g | COC1=CC=C2[C@@H]([C@](CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C35H47F5O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 39.22 mmol, 1M, 39.22 ml | ClCCl | CH2Cl2
product | ethyl 10-[(3R,4R)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate | 2.08 g, Yield 67% | OC1=CC=C2[C@@H]([C@](CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C33H43F5O4S
